US04863958
A solution of 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5-propyl-benzofuran (1 gm; 3.22mmoles) in methylene chloride (30 mL) was cooled at 0° C. and bromine (0.52 gm; 3.22mmoles) in methylene chloride (10 mL) was added dropwise. The reaction mixture was stirred for 15 minutes. The reaction mixture was washed with a saturated sodium bicarbonate solution, dried (Na2SO4), and concentrated in vacuo. The residue was purified by preparative TLC, eluting with 15% ethylacetate in hexane to yield 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-bromobenzofuran, mp. 110°-112° C.

reactant | 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5-propyl-benzofuran | 3.22mmoles, 1 gm | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3)CCC)O)C=C1 | C20H22O3
reactant | bromine | 3.22mmoles, 0.52 gm | BrBr | Br2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-bromobenzofuran | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3Br)CCC)O)C=C1 | C20H21BrO3
